US05804585
B. 3-(3,4-methylenedioxyphenyl)propionaldehyde
To a mixture of 3-(3,4-methylenedioxyphenyl)propyl alcohol (0.26 g, 1.4 mmoles) and celite in CH2Cl2 (7 ml) was added PCC (0.46 g, 2.2 mmoles). The brown reaction mixture was filtered through a plug of celite 1.5 hours later and then concentrated. The brown residue was subjected to flash chromatography (20% EtOAc/hexanes) to provide 0.20 g (77%) of the title compound as a light yellow oil.

reactant | 3-(3,4-methylenedioxyphenyl)propyl alcohol | 1.4 mmoles, 0.26 g | C1OC=2C=C(C=CC2O1)CCCO | C10H12O3
reactant | PCC | 2.2 mmoles, 0.46 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
product | 3-(3,4-methylenedioxyphenyl)propionaldehyde | 0.20 g, 77% | C1OC=2C=C(C=CC2O1)CCC=O | C10H10O3
